US07910613B2
5-(5-Ethyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine
N-[5-(5-Ethyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-propionamide (1.02 g, 3.1 mmol) was suspended in MeOH (40 mL), konc. HCl(aq) was added and the reaction mixture was heated at refluc for 2 h. Saturated aqueous NaHCO3 (100 mL) was added to the reaction mixture. The aqueous phase was extracted with ethyl acetate (2×75 mL). The organic phase was dried with MgSO4 and the solvent was evaporated to yield white solid. Yield: 91%.

reactant | N-[5-(5-Ethyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-propionamide | 3.1 mmol, 1.02 g | C(C)C1=NC(=NO1)C1=C(N=C(S1)NC(CC)=O)C1=CC=CC=C1 | C16H16N4O2S
reactant | HCl | Cl | ClH
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | 5-(5-Ethyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine | Yield: 91% | C(C)C1=NC(=NO1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C13H12N4OS
